US05874193
To a 1 liter round bottomed flask were added 60.0 grams of 9-dicyanomethylenefluorene-4-carboxylic acid, 700 milliliters of N,N-dimethylformamide, 67.1 grams of 4-vinylbenzyl chloride, and 37.0 grams of sodium bicarbonate, and the resulting mixture was stirred at 40° C. for 48 hours. The mixture was poured into 1,500 milliliters of distilled water with vigorous stirring, and the resulting aqueous mixture was extracted with 1,000 milliliters of dichloromethane. The organic layer was separated and was further washed with 1,500 milliliters of distilled water and dried over anhydrous magnesium sulfate. Subsequently, the organic solvent was removed by means of a rotary evaporator and the residue was recrystallized from a mixture of dichloromethane and methanol (2:1 by volume) to give vinylbenzyl 9-dicyanomethylenefluorene-4-carboxylate after filtration and drying in a vacuo for 48 hours.

reactant | 9-dicyanomethylenefluorene-4-carboxylic acid | 60.0 grams | C(#N)C(=C1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)O)C#N | C17H8N2O2
reactant | N,N-dimethylformamide | 700 milliliters | CN(C=O)C | C3H7NO
reactant | 4-vinylbenzyl chloride | 67.1 grams | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | sodium bicarbonate | 37.0 grams | C([O-])(O)=O.[Na+]
solvent | water | 1,500 milliliters | O | H2O
product | vinylbenzyl 9-dicyanomethylenefluorene-4-carboxylate | C(#N)C(=C1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)OC(C1=CC=CC=C1)C=C)C#N | C26H16N2O2
